data/mechanisms/records/IMS8-EQ8.46a.json
{"mechanism_id": "IMS8-EQ8.46a", "species": [{"species_id": "dihexyl_ether_molecular_ion", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][O+:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH3:13]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "hexyloxymethylene_oxocarbenium", "mapped_smiles": "[CH3:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][O+:1]=[CH2:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "n_pentyl_radical", "mapped_smiles": "[CH2:3][CH2:4][CH2:5][CH2:6][CH3:13]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dihexyl_ether_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["hexyloxymethylene_oxocarbenium", "n_pentyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 176, "equation": "8.46", "figure": null, "panel": null, "section": "8 Detailed Mechanisms of Ion Fragmentation (Eq. 8.46, alpha branch)"}, "confidence": 0.85, "curator_note": "Alpha (radical-site) cleavage of the O-ionized di-n-hexyl ether molecular ion (di-n-hexyl ether drawn as C6H13-OCH2-C5H11; odd electron on O1). The odd electron on O1 forms the O1=C2 pi bond of the oxocarbenium C6H13-O(+)=CH2 (m/z 115, 3%) while the C2-C3 sigma bond to the pentyl chain cleaves, expelling the n-pentyl radical C5H11. Book draws 0 electron-pushing arcs: Eq. 8.46 is a branching fragmentation map whose arrows are reaction-pathway arrows labelled 'alpha' and 'i' (with the neutral/radical loss written above each), NOT curved fishhook arrows; all three electron moves are curator-inferred from the printed 'alpha' pathway label. Encoded with the canonical THREE fishhooks: move<1> O1 odd electron into the forming O1-C2 pi bond, move<2> one C2-C3 electron into that same pi bond, move<3> the other C2-C3 electron onto C3 (the departing pentyl radical)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 186.1973, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_115", "species_id": "hexyloxymethylene_oxocarbenium", "step_id": "step_alpha_cleavage", "observed_mz": 115.1112, "relative_intensity": 0.03, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
